US05643932
1.5 g of 1,3-dichloroacetone and 2.3 g of 3,4-dimethoxythiobenzamide were suspended in 100 ml of ethanol. The suspension was heated for 3 hours to complete the reaction. The solvent was removed by distillation. The residue was purified by silica gel column chromatography to obtain 1.86 g of 2-(3,4-dimethoxyphenyl)-4-chloromethylthiazole as a colorless viscous oil.

reactant | 1,3-dichloroacetone | 1.5 g | ClCC(=O)CCl | C3H4Cl2O
reactant | 3,4-dimethoxythiobenzamide | 2.3 g | COC=1C=C(C(=S)N)C=CC1OC | C9H11NO2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(3,4-dimethoxyphenyl)-4-chloromethylthiazole | 1.86 g | COC=1C=C(C=CC1OC)C=1SC=C(N1)CCl | C12H12ClNO2S
